US04758574
2-(3-Methylphenyl)imidazo[4,5-c]pyridine
The title compound was prepared in 70% yield according to the procedure in Example 1 using 3-methylbenzoic acid and 3,4-diaminopyridine. Crystallization from methanol/water afforded light tan crystals, m.p. about 202.5°-204° C.

reactant | 3-methylbenzoic acid | CC=1C=C(C(=O)O)C=CC1 | C8H8O2
reactant | 3,4-diaminopyridine | NC=1C=NC=CC1N | C5H7N3
product | 2-(3-Methylphenyl)imidazo[4,5-c]pyridine | 70% yield | CC=1C=C(C=CC1)C=1NC2=C(C=NC=C2)N1 | C13H11N3
